US05264437
2-(3-Nitroanilino)-3-carboxypyridine (66.3 g, 256 mmole) was suspended in benzene (1100 ml). To this suspension, thionyl chloride (66.3 ml) was added dropwise with stirring. The reaction mixture was refluxed for 4 hours. Excess solid material was filtered from the solution while the solution was still hot. The solvent was stripped from the solution and 69.7 g (251 mmole, 98% yield) of crude 2-(3-nitroanilino)-3-chloroformylpyridine (i.e., an acid chloride) as a solid was recovered, which was taken to the next step without further purification.

reactant | 2-(3-Nitroanilino)-3-carboxypyridine | 256 mmole, 66.3 g | [N+](=O)([O-])C=1C=C(NC2=NC=CC=C2C(=O)O)C=CC1 | C12H9N3O4
reactant | thionyl chloride | 66.3 ml | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 1100 ml | C1=CC=CC=C1 | C6H6
product | 2-(3-nitroanilino)-3-chloroformylpyridine | 251 mmole, 69.7 g, 98% yield | [N+](=O)([O-])C=1C=C(NC2=NC=CC=C2C(=O)Cl)C=CC1 | C12H8ClN3O3
